US05670505
To a mixture of N2 -(tert-butoxycarbonyl)-N1 -formyl-D-tryptophan (2.17 g) and benzyl (2R)-2-(N-benzylamino)propionate hydrochloride (2.0 g) in dichloromethane (30 ml) was added triethylamine (2.3 ml) under nitrogen atmosphere. To the mixture was added 2-chloro-1-methylpyridinium iodide (1.84 g) at room temperature, and the resulting mixture was stirred for 2 hours and left overnight. The reaction mixture was washed successively with dilute hydrochloric acid, aqueous sodium bicarbonate solution and brine, and dried over magnesium sulfate. After evaporation of the solvent, the residue was dissolved in dichloromethane (30 ml). A solution of 4N hydrogen chloride in dioxane solution (10 ml) was added thereto at ice-bath temperature and then the resulting mixture was stirred for 1 hour at room temperature. The reaction mixture was concentrated under reduced pressure. The residue was partitioned between dichloromethane and aqueous saturated sodium bicarbonate solution. The organic layer was separated, washed with brine, dried over magnesium sulfate and filtered. To the filtrate was added triethylamine (1 ml) and the resulting mixture was stirred for 1 hour at room temperature. The reaction mixture was concentrated under reduced pressure. The residue was purified on a silica gel column (60 g) eluting with a mixture of n-hexane and ethyl acetate (2:1) to give (3R,6R)-1-benzyl-3-(N-formyl-1H-indol-3-yl-methyl)-6-methylpiperazine-2,5-dione (1.3 g).

reactant | N2 (tert-butoxycarbonyl)-N1 -formyl-D-tryptophan | 2.17 g | N#N.C(C)(C)(C)OC(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)O
reactant | benzyl (2R)-2-(N-benzylamino)propionate hydrochloride | 2.0 g | Cl.C(C1=CC=CC=C1)N[C@@H](C(=O)OCC1=CC=CC=C1)C
reactant | triethylamine | 2.3 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 1.84 g | [I-].ClC1=[N+](C=CC=C1)C
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (3R,6R)-1-benzyl-3-(N-formyl-1H-indol-3-yl-methyl)-6-methylpiperazine-2,5-dione | 1.3 g | C(C1=CC=CC=C1)N1C([C@H](NC([C@H]1C)=O)CC1=CN(C2=CC=CC=C12)C=O)=O | C22H21N3O3
